US08252935B2
c) 4-Methyl-2-{5-[1-(3-methyl-butyl)-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester
To a solution of 4-Methyl-2-(5-piperidin-2-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester, compound 10b (30.0 mg, 0.067 mmol) in CH3CN (0.5 mL) was added 1-iodo-3methylbutane (16.0 mg, 0.08 mmol) and cesium carbonate (44.0 mg, 0.134 mmol). The reaction was heated to 78° C. overnight. The reaction was cooled to room temperature, concentrated in vacuo, diluted with EtOAc, washed with NaHCO3, and brine. The solution was filtered, and concentrated, then purified via Gilson HPLC to give the compound as a light yellow oil. (31.8 mg, 92%) Calculated for C31H42F3NO2 (M+H) 517.67, Found 518.4.

reactant | 4-Methyl-2-(5-piperidin-2-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1NCCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 1-iodo-3methylbutane | 0.08 mmol, 16.0 mg | ICCC(C)C | C5H11I
reactant | cesium carbonate | 0.134 mmol, 44.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
product | 4-Methyl-2-{5-[1-(3-methyl-butyl)-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1N(CCCC1)CCC(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C31H42F3NO2
